* Generated by Xic from file JTLA
I1 5 0 2.8 
J1 2 0 1 jj1 area=1
J2 4 0 3 jj1 area=1
L0 6 5 0.424 
L1 2 6 0.797 
L2 6 4 0.796 
.model jj1 jj(rtype=1, cct=1, icon=10m, vg=2.8m, delv=0.08m,
+ icrit=1m, r0=30, rn=1.64706, cap=3.8065p)
*Nb 1000 A/cm2   area = 100 square microns (generated by JJMODEL)
    
.save @I1[c]
